SFP candidate L047_4C_R068, corner 31
Rind feed lx 0.02790602
Lfilter lx out 5.64e-07
Cbypass out 0 100n
Rcap out cpos 0.00875
Cbulk cpos damp 9.68e-05
Rdamp damp 0 0.07072
Vfeed feed 0 DC 3.3 AC 1
.end
